US06117901
Synthesis of N-(phenylacetyl)-L-methionine iso-butyl ester
N-phenylacetyl-L-methionine (0.1285 g, 0.447 mmol) was dissolved in 3.0 mL dioxane and iso-butyl alcohol (0.2 mL) and treated with EDC (0.094 g, 0.492 mmol), and catalytic DMAP (0.015 g). After stirring for 17 hours at 23° C., the mixture was evaporated at reduced pressure to an oil, the residue was diluted in EtOAc and washed with 0.1 N HCl and saturated sodium bicarbonate. Chromatography on silica gel using 98:2 CHCl3 /MeOH as eluant provided the pure product.

reactant | N-phenylacetyl-L-methionine | 0.447 mmol, 0.1285 g | C1(=CC=CC=C1)CC(=O)N[C@@H](CCSC)C(=O)O | C13H17NO3S
reactant | iso-butyl alcohol | 0.2 mL | C(C(C)C)O | C4H10O
reactant | EDC | 0.492 mmol, 0.094 g
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | DMAP | 0.015 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(phenylacetyl)-L-methionine iso-butyl ester | C(C(C)C)OC([C@@H](NC(CC1=CC=CC=C1)=O)CCSC)=O | C17H25NO3S
